US06180637B2
5-Methoxy-1-(3-nitrobenzyl)-3-oxo-1,3-dihydroindazole-2-carboxylic acid (2-fluorophenyl)amide
1.8 g (0.013 mol) of 2-fluorophenyl isocyanate are added to a solution of 3.0 g (0.01 mol) of 5-methoxy-1-(3-nitrobenzyl)-1H-indazol-3-ol in 100 ml of tetrahydrofuran and the mixture is heated under reflux for 4 hours. It is then concentrated to 20 ml, and the precipitate deposited is filtered off with suction and recrystallized from ethyl acetate.

reactant | 2-fluorophenyl isocyanate | 0.013 mol, 1.8 g | FC1=C(C=CC=C1)N=C=O | C7H4FNO
reactant | 5-methoxy-1-(3-nitrobenzyl)-1H-indazol-3-ol | 0.01 mol, 3.0 g | COC=1C=C2C(=NN(C2=CC1)CC1=CC(=CC=C1)[N+](=O)[O-])O | C15H13N3O4
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-Methoxy-1-(3-nitrobenzyl)-3-oxo-1,3-dihydroindazole-2-carboxylic acid (2-fluorophenyl)amide | FC1=C(C=CC=C1)NC(=O)N1N(C2=CC=C(C=C2C1=O)OC)CC1=CC(=CC=C1)[N+](=O)[O-] | C22H17FN4O5
